US09302989B2
N-{6-[(3-methylbutyl)carbamoyl]pyridin-3-yl}-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 1C, substituting 3-methylbutan-1-amine for 3-phenylpropan-1-amine and 5-(isoindoline-2-carboxamido)picolinic acid for 4-(isoindoline-2-carboxamido)benzoic acid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.85 (m, 2H), 8.57 (t, J=6.1 Hz, 1H), 8.17 (dd, J=8.5, 2.4 Hz, 1H), 7.94 (d, J=8.5 Hz, 1H), 7.41-7.29 (m, 4H), 4.79 (m, 4H), 3.35 (m, 2H), 1.59 (m, 1H), 1.42 (q, J=7.1 Hz, 2H), 0.90 (d, J=6.6 Hz, 6H); MS (ESI(+)) m/e 353 (M+H)+.

reactant | 3-phenylpropan-1-amine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | 5-(isoindoline-2-carboxamido)picolinic acid | C1N(CC2=CC=CC=C12)C(=O)NC=1C=CC(=NC1)C(=O)O | C15H13N3O3
reactant | 4-(isoindoline-2-carboxamido)benzoic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
product | N-{6-[(3-methylbutyl)carbamoyl]pyridin-3-yl}-1,3-dihydro-2H-isoindole-2-carboxamide | CC(CCNC(=O)C1=CC=C(C=N1)NC(=O)N1CC2=CC=CC=C2C1)C | C20H24N4O2
